US04078142
Preparation of dimethyl 4-amino-5-t-butylphthalate
Dimethyl 4-nitro-5-t-butylphthalate (42 g.) was mixed with 0.2 g. of 5% Pd/C and, while kept under argon, 200 ml. of methanol was added. Rapid stirring under 30 psi of hydrogen gave complete reduction after 20 hours at 35° C. The mixture was filtered through Celite, and the methanol removed under reduced pressure. The residue was dissolved in 250 ml. of hot benzene, filtered, and mixed with 500 ml. of hexane. After standing 3 hours at room temperature and 16 hours at -10° C., the crystalline product was filtered off. After drying, 35.8 g. (95%) of solid dimethyl 4-amino-5-t-butylphthalate remained, m.p. 120°-122° C.

reactant | Dimethyl 4-nitro-5-t-butylphthalate | 42 g | [N+](=O)([O-])C=1C=C(C(C(=O)OC)=CC1C(C)(C)C)C(=O)OC | C14H17NO6
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | [Pd] | Pd
solvent | methanol | CO | CH4O
product | dimethyl 4-amino-5-t-butylphthalate | NC=1C=C(C(C(=O)OC)=CC1C(C)(C)C)C(=O)OC | C14H19NO4
